US07291631B2
To a solution cooled (0° C.) solution of {3-[1-(4-chloro-phenyl)-1-methyl-ethyl]-pyridin-2-yl}-methanol (206 mg, 0.768 mmol) and Et3N (165 μL, 1.15 mmol) in CH2Cl2 (4 mL) was added MsCl (67 μL, 0.845 mmol). The mixture was warmed to ambient temperature and stirred for 1 h. Water (10 mL) was added and the mixture was extracted with CH2Cl2 (3×30 mL). The combined organic layers were dried over Na2SO4 and concentrated in vacuo to afford methanesulfonic acid 3-[1-(4-chloro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl ester (269 mg, 99%) as a yellow solid. 1H NMR (CDCl3) δ 1.70 (s, 6H), 3.01 (s, 3H), 4.78 (s, 2H), 7.05 (d, 2H, J=6.0 Hz), 7.29 (d 2H, J=6.0 Hz), 7.37 (dd, 1H, J=6.0, 3.0 Hz), 7.96 (dd, 1H, J=7.5, 3.0 Hz), 8.59 (dd, 1H, J=6.0, 3.0 Hz).

reactant | {3-[1-(4-chloro-phenyl)-1-methyl-ethyl]-pyridin-2-yl}-methanol | 0.768 mmol, 206 mg | ClC1=CC=C(C=C1)C(C)(C)C=1C(=NC=CC1)CO | C15H16ClNO
reactant | Et3N | 1.15 mmol, 165 μL | CCN(CC)CC | C6H15N
reactant | MsCl | 0.845 mmol, 67 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | 10 mL | O | H2O
solvent | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 3-[1-(4-chloro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl ester | 269 mg, 99% | ClC1=CC=C(C=C1)C(C)(C)C=1C(=NC=CC1)COS(=O)(=O)C | C16H18ClNO3S
